US07943625B2
(b) 4-[(2-Methoxy-2-methylpropyl)amino]-1H-imidazole-5-carboxamide
5-Amino-4-imidazolecarboxamide hydrochloride (0.162 g, 1.0 mmol) and 2-methoxy-2-methylpropanal, which was obtained from Example 3(a) (0.204 g, 2.0 mmol) were mixed in methanol (3 mL) at r.t. Acetic acid (141 μL, 2.46 mmol) mL) was then added and the mixture was allowed to stir for 30 min followed by addition of NaCNBH3 (0.063 g, 1.0 mmol). After 3 h, additional 2-methoxy-2-methylpropanal (0.060 g, 0.59 mmol) was added. The reaction mixture was stirred at r.t. for 17 h and was then concentrated and purified by flash silica gel chromatography (CHCl3:MeOH=5:1). The title compound was obtained as an oil in 73% yield (0.155 g). MS (ESI) m/z 213 (M+1).

reactant | 5-Amino-4-imidazolecarboxamide hydrochloride | 1.0 mmol, 0.162 g | Cl.NC1=C(N=CN1)C(=O)N
reactant | 2-methoxy-2-methylpropanal | COC(C=O)(C)C | C5H10O2
reactant | Acetic acid | 2.46 mmol, 141 μL | C(C)(=O)O | C2H4O2
reactant | NaCNBH3 | 1.0 mmol, 0.063 g | [BH3-]C#N.[Na+]
reactant | 2-methoxy-2-methylpropanal | 0.59 mmol, 0.060 g | COC(C=O)(C)C | C5H10O2
solvent | methanol | 3 mL | CO | CH4O
product | 4-[(2-Methoxy-2-methylpropyl)amino]-1H-imidazole-5-carboxamide | 73% yield | COC(CNC=1N=CNC1C(=O)N)(C)C | C9H16N4O2
